US07790714B2
(S)-2-({(S)-6-Benzoyl-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-[4-(pyridin-4-yloxy)-phenyl]-propionic acid methyl ester (57 mg) was prepared from (S)-6-Benzoyl-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carboxylic acid (100 mg) and (S)-2-Amino-3-[4-(pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride (63 mg) following general procedure A. LC-MS (m/z) 858.

reactant | (S)-6-Benzoyl-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carboxylic acid | 100 mg | C(C1=CC=CC=C1)(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(=O)O)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C32H24Cl2N2O6
reactant | (S)-2-Amino-3-[4-(pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride | 63 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=CC=NC=C1)N)=O
product | (S)-2-({(S)-6-Benzoyl-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-[4-(pyridin-4-yloxy)-phenyl]-propionic acid methyl ester | 57 mg | COC([C@H](CC1=CC=C(C=C1)OC1=CC=NC=C1)NC(=O)C1N(CC=2C=C3O[C@H](C(NC3=CC2C1)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(C1=CC=CC=C1)=O)=O | C47H38Cl2N4O8
